US07517873B2
An aqueous solution of sodium hydroxide (2N, 1.0 mL, 2 mmol) was added A mixture of 0.170 g (0.00036 mole) of (rac)-4-[(9-cyclohexyl-5,7-dimethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-yl)-methyl-amino]-3-methoxy-benzoic acid methyl ester, 6 mL of tetrahydrofuran, 2 mL of methanol and 1 mL of 2M sodium hydroxide was heated at 75 degrees for 4 hours. The mixture was concentrated under reduced pressure and then azeotroped with toluene and concentrated under reduced pressure, The solid residue was triturated with ethyl acetate. The solid was then suspended in water and treated with 1M hydrochloric acid to pH=4. After stirring 30 minutes, the solid was collected, washed with water and dried to give 0.080 g of (rac)-4-[(9-cyclohexyl-5,7-dimethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-yl)-methyl-amino]-3-methoxy-benzoic acid as white powder.

reactant | sodium hydroxide | 2 mmol, 2N, 1.0 mL | [OH-].[Na+]
reactant | (rac)-4-[(9-cyclohexyl-5,7-dimethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-yl)-methyl-amino]-3-methoxy-benzoic acid methyl ester | 0.00036 mole, 0.170 g | COC(C1=CC(=C(C=C1)N(C)C=1N=CC2=C(N(CC(C(N2C)=O)C)C2CCCCC2)N1)OC)=O | C25H33N5O4
reactant | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 2M, 1 mL | [OH-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
product | (rac)-4-[(9-cyclohexyl-5,7-dimethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-yl)-methyl-amino]-3-methoxy-benzoic acid | 0.080 g | C1(CCCCC1)N1C2=C(N(C(C(C1)C)=O)C)C=NC(=N2)N(C2=C(C=C(C(=O)O)C=C2)OC)C | C24H31N5O4
